US09446034B2
To a solution of 5-chloro-2-[(2,5-dichloro-4-pyridinyl)amino]benzonitrile (1.8 g, 6.03 mmol) and 3-methyl-1-(1-methylethyl)-1H-pyrazol-5-amine (0.839 g, 6.03 mmol) in 1,4-dioxane (40 mL) was added cesium carbonate (5.89 g, 18.09 mmol) and the reaction mixture was degassed. DPEPhos (0.260 g, 0.482 mmol) was added followed by palladium acetate (0.054 g, 0.241 mmol) and the reaction mixture was heated to reflux overnight. The suspension was then filtered. The dioxane was evaporated. Solid was partitioned between 1 M HCl and ethyl acetate. Layers were separated, and organic layer discarded. The HCl-containing layer was neutralized and extracted with 2×50 mL of ethyl acetate. Organic layers were combined, washed with brine, dried over MgSO4, filtered and evaporated. 5-Chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzonitrile (850 mg, 2.118 mmol, 35.1% yield) was isolated as a yellow solid. 1H NMR (400 MHz, DMSO-d6) ppm 1.25 (d, J=6.57 Hz, 6H) 2.09 (s, 3 H) 4.35 (quin, J=6.57 Hz, 1 H) 5.89 (s, 1 H) 6.03 (s, 1 H) 7.46 (d, J=8.84 Hz, 1 H) 7.81 (dd, J=8.72, 2.65 Hz, 1 H) 7.96 (s, 1 H) 8.11 (d, J=2.53 Hz, 1 H) 8.42 (s, 1 H) 8.54 (s, 1 H) HPLC Rt=2.60 min, MS (ESI): 400.8, 403.1 [M+H]+.

reactant | 5-chloro-2-[(2,5-dichloro-4-pyridinyl)amino]benzonitrile | 6.03 mmol, 1.8 g | ClC=1C=CC(=C(C#N)C1)NC1=CC(=NC=C1Cl)Cl | C12H6Cl3N3
reactant | 3-methyl-1-(1-methylethyl)-1H-pyrazol-5-amine | 6.03 mmol, 0.839 g | CC1=NN(C(=C1)N)C(C)C | C7H13N3
reactant | cesium carbonate | 18.09 mmol, 5.89 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DPEPhos | 0.482 mmol, 0.260 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.241 mmol, 0.054 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzonitrile | 2.118 mmol, 850 mg, 35.1% yield | ClC=1C=CC(=C(C#N)C1)NC1=CC(=NC=C1Cl)NC1=CC(=NN1C(C)C)C | C19H18Cl2N6
